US06635640B2
3-(5-Methyl-3H-imidazol-4-ylmethylene)-4-pyridin-4-yl-1,3-dihydroindol-2-one
A mixture of 4-pyridin-4-yl-1,3-dihydroindol-2-one (50 mg, 0.24 mmol), 5-methyl-3H-imidazole-4-carbaldehyde (24.4 mg, 0.24 mmol) and piperidine (1 drop) in ethanol (2 mL) was stirred at room temperature for 2 days. The precipitate which formed was filtered. Crystals which formed in the filtrate were isolated, washed with ethanol and dried to give 7.8 mg of the title compound.

reactant | 4-pyridin-4-yl-1,3-dihydroindol-2-one | 0.24 mmol, 50 mg | N1=CC=C(C=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 5-methyl-3H-imidazole-4-carbaldehyde | 0.24 mmol, 24.4 mg | CC1=C(NC=N1)C=O | C5H6N2O
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-(5-Methyl-3H-imidazol-4-ylmethylene)-4-pyridin-4-yl-1,3-dihydroindol-2-one | 7.8 mg | CC1=C(NC=N1)C=C1C(NC2=CC=CC(=C12)C1=CC=NC=C1)=O | C18H14N4O
